US07737149B2
1-(3-Methylisoxazol-5-yl)methanamine (155 mg, 1.37 mmol, 1.2 eq), potassium phosphate (341 mg, 1.60 mmol, 1.4 eq), S-Phos (95 mg, 0.230 mmol, 0.2 eq) and Pd2dba3 (13 mg, 0.06 mmol, 0.05 eq) were stirred in toluene (5 ml) under nitrogen. Methyl 2-iodobenzoate (300 mg, 1.14 mmol, 1 eq) was added and the mixture was stirred at room temperature for 3 days, then at 90° C. for 6 h. The reaction mixture was allowed to cool, poured into water (100 ml) and extracted with ethyl acetate (3×60 ml). The combined extracts were washed with brine, dried over MgSO4, filtered and evaporated. The residual gummy oil was triturated with ether resulting in precipitation of a small amount of a yellow solid which was filtered off. The filtrate was evaporated and triturated again with methanol and a second precipitate was removed by filtration. The filtrate was evaporated, then purified by silica column chromatography, eluting with DCM. The product fractions were evaporated to afford methyl 2-{[(3-methylisoxazol-5-yl)methyl]amino}-benzoate as a yellow oily gum (128 mg, 45% yield); 1H NMR (399.902 MHz, CDCl3) δ 2.25 (s, 3H), 3.88 (s, 3H), 4.53 (d, 2H), 5.99 (s, 1H), 6.62-6.70 (m, 2H), 7.32-7.38 (m, 1H), 7.92-7.96 (m, 1H), 8.19 (t, 1H). MS: m/z 247 (MH+)

reactant | 1-(3-Methylisoxazol-5-yl)methanamine | 1.37 mmol, 155 mg, 1.2 eq | CC1=NOC(=C1)CN | C5H8N2O
reactant | potassium phosphate | 1.60 mmol, 341 mg, 1.4 eq | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | S-Phos | 0.230 mmol, 95 mg, 0.2 eq | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
reactant | Methyl 2-iodobenzoate | 1.14 mmol, 300 mg, 1 eq | IC1=C(C(=O)OC)C=CC=C1 | C8H7IO2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2dba3 | 0.06 mmol, 13 mg, 0.05 eq | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | 100 ml | O | H2O
product | methyl 2-{[(3-methylisoxazol-5-yl)methyl]amino}-benzoate | 128 mg, 45% yield | CC1=NOC(=C1)CNC1=C(C(=O)OC)C=CC=C1 | C13H14N2O3
